US06525201B2
N-(4-methoxyphenyl)-3-chloropropionamide (300 g, 1.4 mol.) and N,N-dimethylacetamide (165 ml, d=0.937, 1.3 eq.) were added to a three-necked, three-liter flask. Trichloroaluminum (760 g, 4 eq.) was slowly added over two hours. An exotherm raised the temperature of the mixture from about 25° C. to 140° C. over the course of the addition. The reaction mixture was a slightly cloudy colorless solution. The solution was stirred and held at 150-160° C. for two hours. At the end of the two hours the reaction mixture had become a stirrable slurry. The mixture was then cooled to ambient temperature and quenched by pouring into water (5.5 L) in a fume hood with good circulation and a trap between the inlet and the exhaust to capture evolved HCl gas. Next, sodium borohydride (30 g) was added, which caused the mixture color to turn from gray to white. The mixture was then cooled to ambient temperature and filtered. The collected solids were washed with water (2 L) and dried overnight in a vacuum-oven at 60° C. to give 6-hydroxy-3,4-dihydroquinolinone (212.8 g, 92.9%) in 99.2% purity based on HPLC analysis.

reactant | N-(4-methoxyphenyl)-3-chloropropionamide | 1.4 mol, 300 g | COC1=CC=C(C=C1)NC(CCCl)=O | C10H12ClNO2
reactant | N,N-dimethylacetamide | 165 ml, 1.3 eq. | CN(C(C)=O)C | C4H9NO
reactant | Trichloroaluminum | 760 g, 4 eq. | Cl[Al](Cl)Cl
product | 6-hydroxy-3,4-dihydroquinolinone | 212.8 g, 92.9% | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
